US07632838B2
2-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}-3-chloropyridine
Using the procedure from Example 7A, 4-[(4-tert-butylphenyl)sulfonyl]piperidine (100 mg, 0.36 mmol) was reacted with 2,3-dichloropyridine (108 mg, 0.72 mmol), DIEA (0.25 ml, 1.44) and 1,4-dioxane (0.3 ml) at 185° C. to afford the title compound (40 mg), a white solid, in 28% yield.

reactant | 4-[(4-tert-butylphenyl)sulfonyl]piperidine | 0.36 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C15H23NO2S
reactant | 2,3-dichloropyridine | 0.72 mmol, 108 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | DIEA | 0.25 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}-3-chloropyridine | 40 mg, 28% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C1=NC=CC=C1Cl | C20H25ClN2O2S
